US05859006
Methyl 1,2,3,4-tetrahydro-6-methyl-1-(3,4-methylenedioxyphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate, cis and trans isomers
The cis and trans isomers of the title compound were prepared using the method described in Intermediate 1 but starting from racemic 5-methyl-tryptophan methyl ester and piperonal.

reactant | racemic 5-methyl-tryptophan methyl ester | COC([C@@H](N)CC1=CNC2=CC=C(C=C12)C)=O | C13H16N2O2
reactant | piperonal | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
product | Methyl 1,2,3,4-tetrahydro-6-methyl-1-(3,4-methylenedioxyphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate | CC=1C=C2C3=C(NC2=CC1)C(NC(C3)C(=O)OC)C3=CC1=C(C=C3)OCO1 | C21H20N2O4
